US05661108
A stirred solution of 2.0 grams (0.008 mole) of 2-(2-methylpropylamino)-4-ethoxycarbonylamino-5-fluoroaniline and 1.9 grams (0.009 mole) of trifluoroacetic anhydride in 75 mL of toluene was heated at 45° C. for about 3.5 hours. After this time the reaction mixture was allowed to cool to ambient temperature, as it stirred for about 18 hours. The reaction mixture was then concentrated under reduced pressure to a residue, which was subjected to column chromatography on silica gel, with 1:1 ethyl acetate and hexane as the eluant. The product-containing fractions were combined and concentrated under reduced pressure, yielding 1.7 grams of 1-(2-methylpropyl)-2-trifluoromethyl-5-fluoro-6-ethoxycarbonylaminobenzimidazole. The NMR spectrum was consistent with the proposed structure.

reactant | 2-(2-methylpropylamino)-4-ethoxycarbonylamino-5-fluoroaniline | 0.008 mole, 2.0 grams | CC(CNC1=C(N)C=C(C(=C1)NC(=O)OCC)F)C | C13H20FN3O2
reactant | trifluoroacetic anhydride | 0.009 mole, 1.9 grams | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(2-methylpropyl)-2-trifluoromethyl-5-fluoro-6-ethoxycarbonylaminobenzimidazole | 1.7 grams | CC(CN1C(=NC2=C1C=C(C(=C2)F)NC(=O)OCC)C(F)(F)F)C | C15H17F4N3O2
